US07214673B2
1.2-Bis(2,4,6-trimethylbenzenesulfonylamino)ethane
By a method similar to Example 152, using ethylenediamine (0.9 g, 15 mmol), triethylamine (3.03 g, 30 mmol), 2-mesitylenesulfonyl chloride (6.56 g, 30 mmol) gives the title compound. Mass spectrum (electrospray): (m/z)=425.2 (M+1); 1H NMR (DMSO-d6): δ7.28 (br, 2H), 7.01 (s, 4H), 2.69–2.68 (m, 4H), 2.47 (s, 12H), 2.28 (s, 6H).

reactant | ethylenediamine | 15 mmol, 0.9 g | C(CN)N | C2H8N2
reactant | triethylamine | 30 mmol, 3.03 g | C(C)N(CC)CC | C6H15N
reactant | 2-mesitylenesulfonyl chloride | 30 mmol, 6.56 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
product | 1.2-Bis(2,4,6-trimethylbenzenesulfonylamino)ethane | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)NCCNS(=O)(=O)C1=C(C=C(C=C1C)C)C | C20H28N2O4S2
